US07101886B2
Starting with N-[3-(2-chloro-acetyl)-2,6-dimethyl-phenyl]-acetamide (0.250 g, 1.04 mmol), and 3-piperazin-1-yl-benzo[d]isothiazole hydrochloride (0.290 g, 1.15 mmol) and following the procedure as outlined in Example 517, N-{3-[2-(4-benzo[d]isothiazol-3-yl-piperazin-1-yl)-acetyl]-2,6-dimethyl-phenyl}-acetamide (0.285 g, 0.67 mmol) was obtained as its hydrochloride salt from treatment with dioxane/HCl(gas). Yield=65%. 100% purity at 254 nM. 1H NMR (400 MHz, DMSO-d6) δ 9.29 (s, 2H), 8.00 (d, J=8.04 Hz, 2H), 7.55–7.47 (m, 2H), 7.38 (t, J=8.04 Hz, 1H), 7.14 (t, J=8.04 Hz, 1H), 3.76 (s, 2H), 4.13–3.99 (m, 2H), 3.42–3.36 (m, 4H), 3.28 (s, H2O), 2.45 (p, DMSO), 2.14–2.11 (m, 6H), 2.01 (s, 3H).

reactant | N-[3-(2-chloro-acetyl)-2,6-dimethyl-phenyl]-acetamide | 1.04 mmol, 0.250 g | ClCC(=O)C=1C(=C(C(=CC1)C)NC(C)=O)C | C12H14ClNO2
reactant | 3-piperazin-1-yl-benzo[d]isothiazole hydrochloride | 1.15 mmol, 0.290 g | Cl.N1(CCNCC1)C1=NSC2=C1C=CC=C2
product | N-{3-[2-(4-benzo[d]isothiazol-3-yl-piperazin-1-yl)-acetyl]-2,6-dimethyl-phenyl}-acetamide | 0.67 mmol, 0.285 g, Yield=65% | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CC(=O)C=2C(=C(C(=CC2)C)NC(C)=O)C | C23H26N4O2S
